US07544690B2
A solution of trans-[({4-[(4-bromo-2-trifluoromethoxy-benzenesulfonylamino)-methyl]-cyclohexylmethyl}-amino)-tert-butoxycarbonylamino-methyl]-carbamic acid tert-butyl ester (53 mg, 0.077 mmol) in 50% TFA in CH2Cl2 (2 mL) was stirred at ambient temperature for 3 hr and the reaction mixture was concentrated. To the residue was added a solution of 1 M HCl in Et2O (0.5 mL) and the mixture was concentrated to give trans-4-Bromo-N-(4-guanidinomethyl-cyclohexylmethyl)-2-trifluoromethoxy-benzenesulfonamide dihydrochloride as a white solid (29 mg, 68%).

reactant | trans-[({4-[(4-bromo-2-trifluoromethoxy-benzenesulfonylamino)-methyl]-cyclohexylmethyl}-amino)-tert-butoxycarbonylamino-methyl]-carbamic acid tert-butyl ester | 0.077 mmol, 53 mg | C(C)(C)(C)OC(NC(NC(=O)OC(C)(C)C)NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=C(C=C(C=C1)Br)OC(F)(F)F)=O | C26H40BrF3N4O7S
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | trans-4-Bromo-N-(4-guanidinomethyl-cyclohexylmethyl)-2-trifluoromethoxy-benzenesulfonamide dihydrochloride | 29 mg, 68% | Cl.Cl.BrC1=CC(=C(C=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)CNC(=N)N)OC(F)(F)F | InChI=1S/C16H22BrF3N4O3S.2ClH/c17-12-5-6-14(13(7-12)27-16(18,19)20)28(25,26)24-9-11-3-1-10(2-4-11)8-23-15(21)22;;/h5-7,10-11,24H,1-4,8-9H2,(H4,21,22,23);2*1H/t10-,11-;;
